*-- pdngen: spice deck generated for chip 'chiplet1' PDN
*-- die chiplet1:  W/H: 0.004/0.003


.subckt chiplet1
+nd_pad_port_0_1
+nd_pad_port_0_3
+nd_pad_port_0_5
+nd_pad_port_1_0
+nd_pad_port_1_2
+nd_pad_port_1_4
+nd_pad_port_2_1
+nd_pad_port_2_3
+nd_pad_port_2_5
+nd_pad_port_3_0
+nd_pad_port_3_2
+nd_pad_port_3_4
+nd_pad_port_4_1
+nd_pad_port_4_3
+nd_pad_port_4_5
+nd_pad_port_5_0
+nd_pad_port_5_2
+nd_pad_port_5_4
+nd_pad_port_6_1
+nd_pad_port_6_3
+nd_pad_port_6_5
+nd_pad_port_7_0
+nd_pad_port_7_2
+nd_pad_port_7_4
*-- p/g port #: 24/24
+nd_1_0_7500_7333

*-- layer 1: net: 0 [X] VDD net from layer 1-2
rd_1_2_0_0_0 nd_1_0_500_666 nd_1_0_1500_666 0.016324
rd_1_2_0_0_1 nd_1_0_1500_666 nd_1_0_2500_666 0.016324
rd_1_2_0_0_2 nd_1_0_2500_666 nd_1_0_3500_666 0.016324
rd_1_2_0_0_3 nd_1_0_3500_666 nd_1_0_4500_666 0.016324
rd_1_2_0_0_4 nd_1_0_4500_666 nd_1_0_5500_666 0.016324
rd_1_2_0_0_5 nd_1_0_5500_666 nd_1_0_6500_666 0.016324
rd_1_2_0_0_6 nd_1_0_6500_666 nd_1_0_7500_666 0.016324
rd_1_2_0_0_7 nd_1_0_7500_666 nd_1_0_8500_666 0.016324
rd_1_2_0_0_8 nd_1_0_8500_666 nd_1_0_9500_666 0.016324
rd_1_2_0_1_0 nd_1_0_500_2000 nd_1_0_1500_2000 0.016324
rd_1_2_0_1_1 nd_1_0_1500_2000 nd_1_0_2500_2000 0.016324
rd_1_2_0_1_2 nd_1_0_2500_2000 nd_1_0_3500_2000 0.016324
rd_1_2_0_1_3 nd_1_0_3500_2000 nd_1_0_4500_2000 0.016324
rd_1_2_0_1_4 nd_1_0_4500_2000 nd_1_0_5500_2000 0.016324
rd_1_2_0_1_5 nd_1_0_5500_2000 nd_1_0_6500_2000 0.016324
rd_1_2_0_1_6 nd_1_0_6500_2000 nd_1_0_7500_2000 0.016324
rd_1_2_0_1_7 nd_1_0_7500_2000 nd_1_0_8500_2000 0.016324
rd_1_2_0_1_8 nd_1_0_8500_2000 nd_1_0_9500_2000 0.016324
rd_1_2_0_2_0 nd_1_0_500_3333 nd_1_0_1500_3333 0.016324
rd_1_2_0_2_1 nd_1_0_1500_3333 nd_1_0_2500_3333 0.016324
rd_1_2_0_2_2 nd_1_0_2500_3333 nd_1_0_3500_3333 0.016324
rd_1_2_0_2_3 nd_1_0_3500_3333 nd_1_0_4500_3333 0.016324
rd_1_2_0_2_4 nd_1_0_4500_3333 nd_1_0_5500_3333 0.016324
rd_1_2_0_2_5 nd_1_0_5500_3333 nd_1_0_6500_3333 0.016324
rd_1_2_0_2_6 nd_1_0_6500_3333 nd_1_0_7500_3333 0.016324
rd_1_2_0_2_7 nd_1_0_7500_3333 nd_1_0_8500_3333 0.016324
rd_1_2_0_2_8 nd_1_0_8500_3333 nd_1_0_9500_3333 0.016324
rd_1_2_0_3_0 nd_1_0_500_4666 nd_1_0_1500_4666 0.016324
rd_1_2_0_3_1 nd_1_0_1500_4666 nd_1_0_2500_4666 0.016324
rd_1_2_0_3_2 nd_1_0_2500_4666 nd_1_0_3500_4666 0.016324
rd_1_2_0_3_3 nd_1_0_3500_4666 nd_1_0_4500_4666 0.016324
rd_1_2_0_3_4 nd_1_0_4500_4666 nd_1_0_5500_4666 0.016324
rd_1_2_0_3_5 nd_1_0_5500_4666 nd_1_0_6500_4666 0.016324
rd_1_2_0_3_6 nd_1_0_6500_4666 nd_1_0_7500_4666 0.016324
rd_1_2_0_3_7 nd_1_0_7500_4666 nd_1_0_8500_4666 0.016324
rd_1_2_0_3_8 nd_1_0_8500_4666 nd_1_0_9500_4666 0.016324
rd_1_2_0_4_0 nd_1_0_500_6000 nd_1_0_1500_6000 0.016324
rd_1_2_0_4_1 nd_1_0_1500_6000 nd_1_0_2500_6000 0.016324
rd_1_2_0_4_2 nd_1_0_2500_6000 nd_1_0_3500_6000 0.016324
rd_1_2_0_4_3 nd_1_0_3500_6000 nd_1_0_4500_6000 0.016324
rd_1_2_0_4_4 nd_1_0_4500_6000 nd_1_0_5500_6000 0.016324
rd_1_2_0_4_5 nd_1_0_5500_6000 nd_1_0_6500_6000 0.016324
rd_1_2_0_4_6 nd_1_0_6500_6000 nd_1_0_7500_6000 0.016324
rd_1_2_0_4_7 nd_1_0_7500_6000 nd_1_0_8500_6000 0.016324
rd_1_2_0_4_8 nd_1_0_8500_6000 nd_1_0_9500_6000 0.016324
rd_1_2_0_5_0 nd_1_0_500_7333 nd_1_0_1500_7333 0.016324
rd_1_2_0_5_1 nd_1_0_1500_7333 nd_1_0_2500_7333 0.016324
rd_1_2_0_5_2 nd_1_0_2500_7333 nd_1_0_3500_7333 0.016324
rd_1_2_0_5_3 nd_1_0_3500_7333 nd_1_0_4500_7333 0.016324
rd_1_2_0_5_4 nd_1_0_4500_7333 nd_1_0_5500_7333 0.016324
rd_1_2_0_5_5 nd_1_0_5500_7333 nd_1_0_6500_7333 0.016324
rd_1_2_0_5_6 nd_1_0_6500_7333 nd_1_0_7500_7333 0.016324
rd_1_2_0_5_7 nd_1_0_7500_7333 nd_1_0_8500_7333 0.016324
rd_1_2_0_5_8 nd_1_0_8500_7333 nd_1_0_9500_7333 0.016324
rd_1_2_0_6_0 nd_1_0_500_8666 nd_1_0_1500_8666 0.016324
rd_1_2_0_6_1 nd_1_0_1500_8666 nd_1_0_2500_8666 0.016324
rd_1_2_0_6_2 nd_1_0_2500_8666 nd_1_0_3500_8666 0.016324
rd_1_2_0_6_3 nd_1_0_3500_8666 nd_1_0_4500_8666 0.016324
rd_1_2_0_6_4 nd_1_0_4500_8666 nd_1_0_5500_8666 0.016324
rd_1_2_0_6_5 nd_1_0_5500_8666 nd_1_0_6500_8666 0.016324
rd_1_2_0_6_6 nd_1_0_6500_8666 nd_1_0_7500_8666 0.016324
rd_1_2_0_6_7 nd_1_0_7500_8666 nd_1_0_8500_8666 0.016324
rd_1_2_0_6_8 nd_1_0_8500_8666 nd_1_0_9500_8666 0.016324
*-- layer 1: net: 0 [X] VSS net from layer 1-2
*-- layer 2: net: 0 [Y] VDD net from layer 2-1
rd_2_1_0_0_0 nd_2_0_500_666 nd_2_0_500_2000 0.016324
rd_2_1_0_0_1 nd_2_0_500_2000 nd_2_0_500_3333 0.016324
rd_2_1_0_0_2 nd_2_0_500_3333 nd_2_0_500_4666 0.016324
rd_2_1_0_0_3 nd_2_0_500_4666 nd_2_0_500_6000 0.016324
rd_2_1_0_0_4 nd_2_0_500_6000 nd_2_0_500_7333 0.016324
rd_2_1_0_0_5 nd_2_0_500_7333 nd_2_0_500_8666 0.016324
rd_2_1_0_1_0 nd_2_0_1500_666 nd_2_0_1500_2000 0.016324
rd_2_1_0_1_1 nd_2_0_1500_2000 nd_2_0_1500_3333 0.016324
rd_2_1_0_1_2 nd_2_0_1500_3333 nd_2_0_1500_4666 0.016324
rd_2_1_0_1_3 nd_2_0_1500_4666 nd_2_0_1500_6000 0.016324
rd_2_1_0_1_4 nd_2_0_1500_6000 nd_2_0_1500_7333 0.016324
rd_2_1_0_1_5 nd_2_0_1500_7333 nd_2_0_1500_8666 0.016324
rd_2_1_0_2_0 nd_2_0_2500_666 nd_2_0_2500_2000 0.016324
rd_2_1_0_2_1 nd_2_0_2500_2000 nd_2_0_2500_3333 0.016324
rd_2_1_0_2_2 nd_2_0_2500_3333 nd_2_0_2500_4666 0.016324
rd_2_1_0_2_3 nd_2_0_2500_4666 nd_2_0_2500_6000 0.016324
rd_2_1_0_2_4 nd_2_0_2500_6000 nd_2_0_2500_7333 0.016324
rd_2_1_0_2_5 nd_2_0_2500_7333 nd_2_0_2500_8666 0.016324
rd_2_1_0_3_0 nd_2_0_3500_666 nd_2_0_3500_2000 0.016324
rd_2_1_0_3_1 nd_2_0_3500_2000 nd_2_0_3500_3333 0.016324
rd_2_1_0_3_2 nd_2_0_3500_3333 nd_2_0_3500_4666 0.016324
rd_2_1_0_3_3 nd_2_0_3500_4666 nd_2_0_3500_6000 0.016324
rd_2_1_0_3_4 nd_2_0_3500_6000 nd_2_0_3500_7333 0.016324
rd_2_1_0_3_5 nd_2_0_3500_7333 nd_2_0_3500_8666 0.016324
rd_2_1_0_4_0 nd_2_0_4500_666 nd_2_0_4500_2000 0.016324
rd_2_1_0_4_1 nd_2_0_4500_2000 nd_2_0_4500_3333 0.016324
rd_2_1_0_4_2 nd_2_0_4500_3333 nd_2_0_4500_4666 0.016324
rd_2_1_0_4_3 nd_2_0_4500_4666 nd_2_0_4500_6000 0.016324
rd_2_1_0_4_4 nd_2_0_4500_6000 nd_2_0_4500_7333 0.016324
rd_2_1_0_4_5 nd_2_0_4500_7333 nd_2_0_4500_8666 0.016324
rd_2_1_0_5_0 nd_2_0_5500_666 nd_2_0_5500_2000 0.016324
rd_2_1_0_5_1 nd_2_0_5500_2000 nd_2_0_5500_3333 0.016324
rd_2_1_0_5_2 nd_2_0_5500_3333 nd_2_0_5500_4666 0.016324
rd_2_1_0_5_3 nd_2_0_5500_4666 nd_2_0_5500_6000 0.016324
rd_2_1_0_5_4 nd_2_0_5500_6000 nd_2_0_5500_7333 0.016324
rd_2_1_0_5_5 nd_2_0_5500_7333 nd_2_0_5500_8666 0.016324
rd_2_1_0_6_0 nd_2_0_6500_666 nd_2_0_6500_2000 0.016324
rd_2_1_0_6_1 nd_2_0_6500_2000 nd_2_0_6500_3333 0.016324
rd_2_1_0_6_2 nd_2_0_6500_3333 nd_2_0_6500_4666 0.016324
rd_2_1_0_6_3 nd_2_0_6500_4666 nd_2_0_6500_6000 0.016324
rd_2_1_0_6_4 nd_2_0_6500_6000 nd_2_0_6500_7333 0.016324
rd_2_1_0_6_5 nd_2_0_6500_7333 nd_2_0_6500_8666 0.016324
rd_2_1_0_7_0 nd_2_0_7500_666 nd_2_0_7500_2000 0.016324
rd_2_1_0_7_1 nd_2_0_7500_2000 nd_2_0_7500_3333 0.016324
rd_2_1_0_7_2 nd_2_0_7500_3333 nd_2_0_7500_4666 0.016324
rd_2_1_0_7_3 nd_2_0_7500_4666 nd_2_0_7500_6000 0.016324
rd_2_1_0_7_4 nd_2_0_7500_6000 nd_2_0_7500_7333 0.016324
rd_2_1_0_7_5 nd_2_0_7500_7333 nd_2_0_7500_8666 0.016324
rd_2_1_0_8_0 nd_2_0_8500_666 nd_2_0_8500_2000 0.016324
rd_2_1_0_8_1 nd_2_0_8500_2000 nd_2_0_8500_3333 0.016324
rd_2_1_0_8_2 nd_2_0_8500_3333 nd_2_0_8500_4666 0.016324
rd_2_1_0_8_3 nd_2_0_8500_4666 nd_2_0_8500_6000 0.016324
rd_2_1_0_8_4 nd_2_0_8500_6000 nd_2_0_8500_7333 0.016324
rd_2_1_0_8_5 nd_2_0_8500_7333 nd_2_0_8500_8666 0.016324
rd_2_1_0_9_0 nd_2_0_9500_666 nd_2_0_9500_2000 0.016324
rd_2_1_0_9_1 nd_2_0_9500_2000 nd_2_0_9500_3333 0.016324
rd_2_1_0_9_2 nd_2_0_9500_3333 nd_2_0_9500_4666 0.016324
rd_2_1_0_9_3 nd_2_0_9500_4666 nd_2_0_9500_6000 0.016324
rd_2_1_0_9_4 nd_2_0_9500_6000 nd_2_0_9500_7333 0.016324
rd_2_1_0_9_5 nd_2_0_9500_7333 nd_2_0_9500_8666 0.016324
*-- layer 2: net: 0 [Y] VSS net from layer 2-1
*-- via layer 1-2: net: 0 VDD net
rvd_1_0_0_0 nd_1_0_500_666 nd_2_0_500_666 0.005
rvd_1_0_0_1 nd_1_0_1500_666 nd_2_0_1500_666 0.005
rvd_1_0_0_2 nd_1_0_2500_666 nd_2_0_2500_666 0.005
rvd_1_0_0_3 nd_1_0_3500_666 nd_2_0_3500_666 0.005
rvd_1_0_0_4 nd_1_0_4500_666 nd_2_0_4500_666 0.005
rvd_1_0_0_5 nd_1_0_5500_666 nd_2_0_5500_666 0.005
rvd_1_0_0_6 nd_1_0_6500_666 nd_2_0_6500_666 0.005
rvd_1_0_0_7 nd_1_0_7500_666 nd_2_0_7500_666 0.005
rvd_1_0_0_8 nd_1_0_8500_666 nd_2_0_8500_666 0.005
rvd_1_0_0_9 nd_1_0_9500_666 nd_2_0_9500_666 0.005
rvd_1_0_1_0 nd_1_0_500_2000 nd_2_0_500_2000 0.005
rvd_1_0_1_1 nd_1_0_1500_2000 nd_2_0_1500_2000 0.005
rvd_1_0_1_2 nd_1_0_2500_2000 nd_2_0_2500_2000 0.005
rvd_1_0_1_3 nd_1_0_3500_2000 nd_2_0_3500_2000 0.005
rvd_1_0_1_4 nd_1_0_4500_2000 nd_2_0_4500_2000 0.005
rvd_1_0_1_5 nd_1_0_5500_2000 nd_2_0_5500_2000 0.005
rvd_1_0_1_6 nd_1_0_6500_2000 nd_2_0_6500_2000 0.005
rvd_1_0_1_7 nd_1_0_7500_2000 nd_2_0_7500_2000 0.005
rvd_1_0_1_8 nd_1_0_8500_2000 nd_2_0_8500_2000 0.005
rvd_1_0_1_9 nd_1_0_9500_2000 nd_2_0_9500_2000 0.005
rvd_1_0_2_0 nd_1_0_500_3333 nd_2_0_500_3333 0.005
rvd_1_0_2_1 nd_1_0_1500_3333 nd_2_0_1500_3333 0.005
rvd_1_0_2_2 nd_1_0_2500_3333 nd_2_0_2500_3333 0.005
rvd_1_0_2_3 nd_1_0_3500_3333 nd_2_0_3500_3333 0.005
rvd_1_0_2_4 nd_1_0_4500_3333 nd_2_0_4500_3333 0.005
rvd_1_0_2_5 nd_1_0_5500_3333 nd_2_0_5500_3333 0.005
rvd_1_0_2_6 nd_1_0_6500_3333 nd_2_0_6500_3333 0.005
rvd_1_0_2_7 nd_1_0_7500_3333 nd_2_0_7500_3333 0.005
rvd_1_0_2_8 nd_1_0_8500_3333 nd_2_0_8500_3333 0.005
rvd_1_0_2_9 nd_1_0_9500_3333 nd_2_0_9500_3333 0.005
rvd_1_0_3_0 nd_1_0_500_4666 nd_2_0_500_4666 0.005
rvd_1_0_3_1 nd_1_0_1500_4666 nd_2_0_1500_4666 0.005
rvd_1_0_3_2 nd_1_0_2500_4666 nd_2_0_2500_4666 0.005
rvd_1_0_3_3 nd_1_0_3500_4666 nd_2_0_3500_4666 0.005
rvd_1_0_3_4 nd_1_0_4500_4666 nd_2_0_4500_4666 0.005
rvd_1_0_3_5 nd_1_0_5500_4666 nd_2_0_5500_4666 0.005
rvd_1_0_3_6 nd_1_0_6500_4666 nd_2_0_6500_4666 0.005
rvd_1_0_3_7 nd_1_0_7500_4666 nd_2_0_7500_4666 0.005
rvd_1_0_3_8 nd_1_0_8500_4666 nd_2_0_8500_4666 0.005
rvd_1_0_3_9 nd_1_0_9500_4666 nd_2_0_9500_4666 0.005
rvd_1_0_4_0 nd_1_0_500_6000 nd_2_0_500_6000 0.005
rvd_1_0_4_1 nd_1_0_1500_6000 nd_2_0_1500_6000 0.005
rvd_1_0_4_2 nd_1_0_2500_6000 nd_2_0_2500_6000 0.005
rvd_1_0_4_3 nd_1_0_3500_6000 nd_2_0_3500_6000 0.005
rvd_1_0_4_4 nd_1_0_4500_6000 nd_2_0_4500_6000 0.005
rvd_1_0_4_5 nd_1_0_5500_6000 nd_2_0_5500_6000 0.005
rvd_1_0_4_6 nd_1_0_6500_6000 nd_2_0_6500_6000 0.005
rvd_1_0_4_7 nd_1_0_7500_6000 nd_2_0_7500_6000 0.005
rvd_1_0_4_8 nd_1_0_8500_6000 nd_2_0_8500_6000 0.005
rvd_1_0_4_9 nd_1_0_9500_6000 nd_2_0_9500_6000 0.005
rvd_1_0_5_0 nd_1_0_500_7333 nd_2_0_500_7333 0.005
rvd_1_0_5_1 nd_1_0_1500_7333 nd_2_0_1500_7333 0.005
rvd_1_0_5_2 nd_1_0_2500_7333 nd_2_0_2500_7333 0.005
rvd_1_0_5_3 nd_1_0_3500_7333 nd_2_0_3500_7333 0.005
rvd_1_0_5_4 nd_1_0_4500_7333 nd_2_0_4500_7333 0.005
rvd_1_0_5_5 nd_1_0_5500_7333 nd_2_0_5500_7333 0.005
rvd_1_0_5_6 nd_1_0_6500_7333 nd_2_0_6500_7333 0.005
rvd_1_0_5_7 nd_1_0_7500_7333 nd_2_0_7500_7333 0.005
rvd_1_0_5_8 nd_1_0_8500_7333 nd_2_0_8500_7333 0.005
rvd_1_0_5_9 nd_1_0_9500_7333 nd_2_0_9500_7333 0.005
rvd_1_0_6_0 nd_1_0_500_8666 nd_2_0_500_8666 0.005
rvd_1_0_6_1 nd_1_0_1500_8666 nd_2_0_1500_8666 0.005
rvd_1_0_6_2 nd_1_0_2500_8666 nd_2_0_2500_8666 0.005
rvd_1_0_6_3 nd_1_0_3500_8666 nd_2_0_3500_8666 0.005
rvd_1_0_6_4 nd_1_0_4500_8666 nd_2_0_4500_8666 0.005
rvd_1_0_6_5 nd_1_0_5500_8666 nd_2_0_5500_8666 0.005
rvd_1_0_6_6 nd_1_0_6500_8666 nd_2_0_6500_8666 0.005
rvd_1_0_6_7 nd_1_0_7500_8666 nd_2_0_7500_8666 0.005
rvd_1_0_6_8 nd_1_0_8500_8666 nd_2_0_8500_8666 0.005
rvd_1_0_6_9 nd_1_0_9500_8666 nd_2_0_9500_8666 0.005
*-- via layer 1-2: net: 0 VSS net
id_0_0_0_0 nd_1_0_500_666 0 0.016127
id_0_0_0_1 nd_1_0_1500_666 0 0.0176457
id_0_0_0_2 nd_1_0_2500_666 0 0.0190756
id_0_0_0_3 nd_1_0_3500_666 0 0.000743086
id_0_0_0_4 nd_1_0_4500_666 0 0.00500986
id_0_0_0_5 nd_1_0_5500_666 0 0.00648293
id_0_0_0_6 nd_1_0_6500_666 0 0.00799368
id_0_0_0_7 nd_1_0_7500_666 0 0.00956949
id_0_0_0_8 nd_1_0_8500_666 0 0.00107409
id_0_0_0_9 nd_1_0_9500_666 0 0.00547994
id_0_0_0_10 nd_1_0_500_2000 0 0.00680523
id_0_0_0_11 nd_1_0_1500_2000 0 0.00836182
id_0_0_0_12 nd_1_0_2500_2000 0 0.00987034
id_0_0_0_13 nd_1_0_3500_2000 0 0.00131354
id_0_0_0_14 nd_1_0_4500_2000 0 0.00575619
id_0_0_0_15 nd_1_0_5500_2000 0 0.0172244
id_0_0_0_16 nd_1_0_6500_2000 0 0.0186763
id_0_0_0_17 nd_1_0_7500_2000 0 0.0101732
id_0_0_0_18 nd_1_0_8500_2000 0 0.00169684
id_0_0_0_19 nd_1_0_9500_2000 0 0.015974
id_0_0_0_20 nd_1_0_500_3333 0 0.00747798
id_0_0_0_21 nd_1_0_1500_3333 0 0.00895142
id_0_0_0_22 nd_1_0_2500_3333 0 0.0106113
id_0_0_0_23 nd_1_0_3500_3333 0 0.00658336
id_0_0_0_24 nd_1_0_4500_3333 0 0.00812946
id_0_0_0_25 nd_1_0_5500_3333 0 0.00245652
id_0_0_0_26 nd_1_0_6500_3333 0 0.00387694
id_0_0_0_27 nd_1_0_7500_3333 0 0.00550717
id_0_0_0_28 nd_1_0_8500_3333 0 0.00688447
id_0_0_0_29 nd_1_0_9500_3333 0 0.00842128
id_0_0_0_30 nd_1_0_500_4666 0 0.00988835
id_0_0_0_31 nd_1_0_1500_4666 0 0.0042014
id_0_0_0_32 nd_1_0_2500_4666 0 0.0158059
id_0_0_0_33 nd_1_0_3500_4666 0 0.0172276
id_0_0_0_34 nd_1_0_4500_4666 0 0.00874217
id_0_0_0_35 nd_1_0_5500_4666 0 0.0003079
id_0_0_0_36 nd_1_0_6500_4666 0 0.0145822
id_0_0_0_37 nd_1_0_7500_4666 0 0.0160035
id_0_0_0_38 nd_1_0_8500_4666 0 0.00775537
id_0_0_0_39 nd_1_0_9500_4666 0 0.00910087
id_0_0_0_40 nd_1_0_500_6000 0 0.0133413
id_0_0_0_41 nd_1_0_1500_6000 0 0.014827
id_0_0_0_42 nd_1_0_2500_6000 0 0.0164624
id_0_0_0_43 nd_1_0_3500_6000 0 0.0179885
id_0_0_0_44 nd_1_0_4500_6000 0 0.00946538
id_0_0_0_45 nd_1_0_5500_6000 0 0.0138051
id_0_0_0_46 nd_1_0_6500_6000 0 0.0152879
id_0_0_0_47 nd_1_0_7500_6000 0 0.0167053
id_0_0_0_48 nd_1_0_8500_6000 0 0.00826113
id_0_0_0_49 nd_1_0_9500_6000 0 0.0197029
id_0_0_0_50 nd_1_0_500_7333 0 0.0140809
id_0_0_0_51 nd_1_0_1500_7333 0 0.00562558
id_0_0_0_52 nd_1_0_2500_7333 0 0.0071367
id_0_0_0_53 nd_1_0_3500_7333 0 0.0186591
id_0_0_0_54 nd_1_0_4500_7333 0 0.00027521
id_0_0_0_55 nd_1_0_5500_7333 0 0.00451685
id_0_0_0_56 nd_1_0_6500_7333 0 0.0158851
id_0_0_0_57 nd_1_0_7500_7333 0 0.0175063
id_0_0_0_58 nd_1_0_8500_7333 0 0.00901679
id_0_0_0_59 nd_1_0_9500_7333 0 0.000533798
id_0_0_0_60 nd_1_0_500_8666 0 0.00489217
id_0_0_0_61 nd_1_0_1500_8666 0 0.0063818
id_0_0_0_62 nd_1_0_2500_8666 0 0.00780268
id_0_0_0_63 nd_1_0_3500_8666 0 0.00931812
id_0_0_0_64 nd_1_0_4500_8666 0 0.000903673
id_0_0_0_65 nd_1_0_5500_8666 0 0.00522899
id_0_0_0_66 nd_1_0_6500_8666 0 0.00657122
id_0_0_0_67 nd_1_0_7500_8666 0 0.00815545
id_0_0_0_68 nd_1_0_8500_8666 0 0.00960389
id_0_0_0_69 nd_1_0_9500_8666 0 0.0111572

*-- intentional decap
cd_add_cap0 nd_1_0_1500_2000 nd0 'dcap_int_val122'
cd_add_cap1 nd_1_0_3500_2000 nd1 'dcap_int_val123'
cd_add_cap2 nd_1_0_5500_2000 nd2 'dcap_int_val124'
cd_add_cap3 nd_1_0_8500_2000 nd3 'dcap_int_val125'
cd_add_cap4 nd_1_0_1500_4666 nd4 'dcap_int_val126'
cd_add_cap5 nd_1_0_3500_4666 nd5 'dcap_int_val127'
cd_add_cap6 nd_1_0_5500_4666 nd6 'dcap_int_val128'
cd_add_cap7 nd_1_0_8500_4666 nd7 'dcap_int_val129'
cd_add_cap8 nd_1_0_1500_7333 nd8 'dcap_int_val130'
cd_add_cap9 nd_1_0_3500_7333 nd9 'dcap_int_val131'
cd_add_cap10 nd_1_0_5500_7333 nd10 'dcap_int_val132'
cd_add_cap11 nd_1_0_8500_7333 nd11 'dcap_int_val133'
rd_add0 nd0 0 'esr1'
rd_add1 nd1 0 'esr2'
rd_add2 nd2 0 'esr3'
rd_add3 nd3 0 'esr4'
rd_add4 nd4 0 'esr5'
rd_add5 nd5 0 'esr6'
rd_add6 nd6 0 'esr7'
rd_add7 nd7 0 'esr8'
rd_add8 nd8 0 'esr9'
rd_add9 nd9 0 'esr10'
rd_add10 nd10 0 'esr11'
rd_add11 nd11 0 'esr12'

.include 'moscap_esr.txt'
.include 'int_param_dcap.txt'


*-- p/g pad array
xd_pad_0_1 nd_pad_port_0_1 nd_pad_0_1 ubump_subckt
xd_pad_0_3 nd_pad_port_0_3 nd_pad_0_3 ubump_subckt
xd_pad_0_5 nd_pad_port_0_5 nd_pad_0_5 ubump_subckt
xd_pad_1_0 nd_pad_port_1_0 nd_pad_1_0 ubump_subckt
xd_pad_1_2 nd_pad_port_1_2 nd_pad_1_2 ubump_subckt
xd_pad_1_4 nd_pad_port_1_4 nd_pad_1_4 ubump_subckt
xd_pad_2_1 nd_pad_port_2_1 nd_pad_2_1 ubump_subckt
xd_pad_2_3 nd_pad_port_2_3 nd_pad_2_3 ubump_subckt
xd_pad_2_5 nd_pad_port_2_5 nd_pad_2_5 ubump_subckt
xd_pad_3_0 nd_pad_port_3_0 nd_pad_3_0 ubump_subckt
xd_pad_3_2 nd_pad_port_3_2 nd_pad_3_2 ubump_subckt
xd_pad_3_4 nd_pad_port_3_4 nd_pad_3_4 ubump_subckt
xd_pad_4_1 nd_pad_port_4_1 nd_pad_4_1 ubump_subckt
xd_pad_4_3 nd_pad_port_4_3 nd_pad_4_3 ubump_subckt
xd_pad_4_5 nd_pad_port_4_5 nd_pad_4_5 ubump_subckt
xd_pad_5_0 nd_pad_port_5_0 nd_pad_5_0 ubump_subckt
xd_pad_5_2 nd_pad_port_5_2 nd_pad_5_2 ubump_subckt
xd_pad_5_4 nd_pad_port_5_4 nd_pad_5_4 ubump_subckt
xd_pad_6_1 nd_pad_port_6_1 nd_pad_6_1 ubump_subckt
xd_pad_6_3 nd_pad_port_6_3 nd_pad_6_3 ubump_subckt
xd_pad_6_5 nd_pad_port_6_5 nd_pad_6_5 ubump_subckt
xd_pad_7_0 nd_pad_port_7_0 nd_pad_7_0 ubump_subckt
xd_pad_7_2 nd_pad_port_7_2 nd_pad_7_2 ubump_subckt
xd_pad_7_4 nd_pad_port_7_4 nd_pad_7_4 ubump_subckt
.include 'ubump.subckt'

*-- pad to via
rd_pad2via_0_1 nd_pad_0_1 nd_2_0_1500_3333  0.001
rd_pad2via_0_3 nd_pad_0_3 nd_2_0_1500_6000  0.001
rd_pad2via_0_5 nd_pad_0_5 nd_2_0_1500_8666  0.001
rd_pad2via_1_0 nd_pad_1_0 nd_2_0_2500_2000  0.001
rd_pad2via_1_2 nd_pad_1_2 nd_2_0_2500_4666  0.001
rd_pad2via_1_4 nd_pad_1_4 nd_2_0_2500_7333  0.001
rd_pad2via_2_1 nd_pad_2_1 nd_2_0_3500_3333  0.001
rd_pad2via_2_3 nd_pad_2_3 nd_2_0_3500_6000  0.001
rd_pad2via_2_5 nd_pad_2_5 nd_2_0_3500_8666  0.001
rd_pad2via_3_0 nd_pad_3_0 nd_2_0_4500_2000  0.001
rd_pad2via_3_2 nd_pad_3_2 nd_2_0_4500_4666  0.001
rd_pad2via_3_4 nd_pad_3_4 nd_2_0_4500_7333  0.001
rd_pad2via_4_1 nd_pad_4_1 nd_2_0_5500_3333  0.001
rd_pad2via_4_3 nd_pad_4_3 nd_2_0_5500_6000  0.001
rd_pad2via_4_5 nd_pad_4_5 nd_2_0_5500_8666  0.001
rd_pad2via_5_0 nd_pad_5_0 nd_2_0_6500_2000  0.001
rd_pad2via_5_2 nd_pad_5_2 nd_2_0_6500_4666  0.001
rd_pad2via_5_4 nd_pad_5_4 nd_2_0_6500_7333  0.001
rd_pad2via_6_1 nd_pad_6_1 nd_2_0_7500_3333  0.001
rd_pad2via_6_3 nd_pad_6_3 nd_2_0_7500_6000  0.001
rd_pad2via_6_5 nd_pad_6_5 nd_2_0_7500_8666  0.001
rd_pad2via_7_0 nd_pad_7_0 nd_2_0_8500_2000  0.001
rd_pad2via_7_2 nd_pad_7_2 nd_2_0_8500_4666  0.001
rd_pad2via_7_4 nd_pad_7_4 nd_2_0_8500_7333  0.001

.ends chiplet1
